US07479558B2
4-chloro-8-(2,6-difluorophenyl)-2-(4-methyl-1,4′-bipiperidin-1′-yl)pyrido[2,3-d]pyrimidin-7(8H)-one
To the compound 4-chloro-8-(2,6-difluorophenyl)-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one (1.39 g, 3.9 mmol) in dichloromethane (80 mL) were added 4-methyl-1,4′-bipiperidine (0.75 g, 5.85 mol) and triethylamine (1.03 mL, 11.7 mmol). The mixture was stirred at about −20° C. overnight. Filtration followed by concentration, the crude was purified with flash chromatography to afford the title compound (0.904 g, 51%). LC-MS m/z 474 (M+H)+.

reactant | 4-chloro-8-(2,6-difluorophenyl)-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 3.9 mmol, 1.39 g | ClC=1C2=C(N=C(N1)S(=O)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3O2S
reactant | 4-methyl-1,4′-bipiperidine | 5.85 mol, 0.75 g | CC1CCN(CC1)C1CCNCC1 | C11H22N2
reactant | triethylamine | 11.7 mmol, 1.03 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 4-chloro-8-(2,6-difluorophenyl)-2-(4-methyl-1,4′-bipiperidin-1′-yl)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.904 g, 51% | ClC=1C2=C(N=C(N1)N1CCC(CC1)N1CCC(CC1)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C24H26ClF2N5O
